US04945098
1-octadecylaminocarbonyloxy-3-(8-bromooctanoyloxy)-2-isopropylidenepropane
Following the procedure described in Preparation 9, but replacing 3-octadecylaminocarbonyloxy-2-methylenepropan-1-ol with 3-octadecylaminocarbonyloxy-2-isopropylidenepropan-1-ol (from Preparation 26) and 6-bromohexanoic acid with 8-bromooctanoic acid, the desired product was obtained.

reactant | 3-octadecylaminocarbonyloxy-2-isopropylidenepropan-1-ol | C(CCCCCCCCCCCCCCCCC)NC(=O)OCC(CO)=C(C)C | C25H49NO3
reactant | 6-bromohexanoic acid | BrCCCCCC(=O)O | C6H11BrO2
reactant | 8-bromooctanoic acid | BrCCCCCCCC(=O)O | C8H15BrO2
product | 1-octadecylaminocarbonyloxy-3-(8-bromooctanoyloxy)-2-isopropylidenepropane | C(CCCCCCCCCCCCCCCCC)NC(=O)OCC(COC(CCCCCCCBr)=O)=C(C)C | C33H62BrNO4
